US04695573
9-(2-Chlorobenzylamino)-1,2,3,4-tetrahydroacridin-1-ol
To a cooled suspension of 9-(2-chlorobenzylamino)-3,4-dihydroacridin-1(2H)-one (4.0 g) in 75 ml of tetrahydrofuran was added 6.5 ml of 1M solution of lithium aluminum hydride in THF. This was stirred at ice bath temperature for 1.5 hours.

reactant | 9-(2-chlorobenzylamino)-3,4-dihydroacridin-1(2H)-one | 4.0 g | ClC1=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=CC=C1 | C20H17ClN2O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 9-(2-Chlorobenzylamino)-1,2,3,4-tetrahydroacridin-1-ol | ClC1=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)O)C=CC=C1 | C20H19ClN2O
